US04258059
1-Cyclohexyl-1-phenyl-2-(3-sulfamoyl-4-chlorobenzoyl)-hydrazine
A mixture of 8.5 g (0.045 mol) 1-cyclohexyl-1-phenyl hydrazine in 50 ml isopropanol and 4.7 g (0.045 mol) sodium bicarbonate was stirred and chilled. Addition of 11.36 g (0.045 mol) 3-sulfamoyl-4-chlorobenzoyl chloride was made in several portions. The mixture was stirred for 2 hours at room temperature and for 2.5 hours at 40°-50° C. Dilution of the reaction mixture with water yielded a solid material which was recrystallized from aqueous ethanol. M.P. 216°-217° C.

reactant | 1-cyclohexyl-1-phenyl hydrazine | 0.045 mol, 8.5 g | C1(CCCCC1)N(N)C1=CC=CC=C1 | C12H18N2
reactant | sodium bicarbonate | 0.045 mol, 4.7 g | C([O-])(O)=O.[Na+]
reactant | 3-sulfamoyl-4-chlorobenzoyl chloride | 0.045 mol, 11.36 g | S(N)(=O)(=O)C=1C=C(C(=O)Cl)C=CC1Cl | C7H5Cl2NO3S
reactant | water | O | H2O
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 1-Cyclohexyl-1-phenyl-2-(3-sulfamoyl-4-chlorobenzoyl)-hydrazine | C1(CCCCC1)N(NC(C1=CC(=C(C=C1)Cl)S(N)(=O)=O)=O)C1=CC=CC=C1 | C19H22ClN3O3S
